US06337336B1
3-{1-[2-(1H-Indol-4-yloxy)-ethyl]-1,2,3,6-tetrahydro-pyridin-4-yl}-1H-pyrrolo[2,3-b]pyridine
A solution of 2-(1H-indol-4-yloxy)ethylchloride (0.5 g, 26 mmol), 3-(1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine (0.61 g, 31 mmol) and triethylamine (0.71 ml, 52 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 4 hours at 80° C. The mixture was poured into water and extracted with ethyl acetate (3×100 ml). The organic layer was washed with water (3×100 ml), sodium bicarbonate and dried over anhydrous sodium sulfate, filtered, and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride) afforded 0.95 g (97%) of product as a green oil.

reactant | 2-(1H-indol-4-yloxy)ethylchloride | 26 mmol, 0.5 g | N1C=CC2=C(C=CC=C12)OCCCl | C10H10ClNO
reactant | 3-(1,2,3,6-tetrahydro-pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 31 mmol, 0.61 g | N1CCC(=CC1)C1=CNC2=NC=CC=C21 | C12H13N3
reactant | triethylamine | 52 mmol, 0.71 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 3-{1-[2-(1H-Indol-4-yloxy)-ethyl]-1,2,3,6-tetrahydro-pyridin-4-yl}-1H-pyrrolo[2,3-b]pyridine | 0.95 g, 97% | N1C=CC2=C(C=CC=C12)OCCN1CCC(=CC1)C1=CNC2=NC=CC=C21 | C22H22N4O
